US08168673B2
To a stirred solution of [5-fluoro-2-methyl-1H-indol-1-yl]acetic acid ethyl ester (2.16 g, 9.19 mmol) at room temperature in dichloromethane (80 mL), was added 2-formylbenzenesulfonic acid sodium salt hydrate (2.01 g, 9.66 mmol) followed by triethylsilane (7.6 mL, 47.8 mmol). TFA (2.24 mL, 29.1 mmol) was then added dropwise over 30 min, and after the addition was complete, the mixture was stirred at room temperature for 72 h. Saturated aqueous NaHCO3 (100 mL) was then added to the solution plus saturated brine (10 mL) and the product extracted with ethyl acetate (200 ml). The organic layer was washed with saturated brine (100 mL), dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting pink sticky solid was triturated with ethanol and hexanes to give sodium 2-((1-(2-ethoxy-2-oxoethyl)-5-fluoro-2-methyl-1H-indol-3-yl)methyl)benzene-sulfonate (2.33 g, 5.45 mmol, 59%).

reactant | [5-fluoro-2-methyl-1H-indol-1-yl]acetic acid ethyl ester | 9.19 mmol, 2.16 g | C(C)OC(CN1C(=CC2=CC(=CC=C12)F)C)=O | C13H14FNO2
reactant | 2-formylbenzenesulfonic acid sodium salt hydrate | 9.66 mmol, 2.01 g | O.[Na+].C(=O)C1=C(C=CC=C1)S(=O)(=O)[O-]
reactant | triethylsilane | 47.8 mmol, 7.6 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 29.1 mmol, 2.24 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | brine | 10 mL | [Cl-].[Na+].O
product | sodium 2-((1-(2-ethoxy-2-oxoethyl)-5-fluoro-2-methyl-1H-indol-3-yl)methyl)benzene-sulfonate | 5.45 mmol, 2.33 g, 59% | C(C)OC(CN1C(=C(C2=CC(=CC=C12)F)CC1=C(C=CC=C1)S(=O)(=O)[O-])C)=O.[Na+] | InChI=1S/C20H20FNO5S.Na/c1-3-27-20(23)12-22-13(2)16(17-11-15(21)8-9-18(17)22)10-14-6-4-5-7-19(14)28(24,25)26;/h4-9,11H,3,10,12H2,1-2H3,(H,24,25,26);/q;+1/p-1
